US04154834
A solution of 5-(4-pyridylmethyl)-2-thiouracil (11.0 g), methyl iodide (7.2 g) and sodium hydroxide (2.1 g) in water (50 ml) and ethanol (100 ml) was stirred at 60° for 30 minutes, allowed to cool and filtered to give 5-(4-pyridylmethyl)-2-methylthio-4-pyrimidone m.p. 179°-182° (ethanol).

reactant | 5-(4-pyridylmethyl)-2-thiouracil | 11.0 g | N1=CC=C(C=C1)CC=1C(NC(NC1)=S)=O | C10H9N3OS
reactant | methyl iodide | 7.2 g | CI | CH3I
reactant | sodium hydroxide | 2.1 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(4-pyridylmethyl)-2-methylthio-4-pyrimidone | N1=CC=C(C=C1)CC=1C(NC(=NC1)SC)=O | C11H11N3OS
